US05130432
The (R)-1-oxo-3a,4,5,6-tetrahydropyrrolo[1,2-c][1,2,3]oxathiazolidine, from the previous step, and 20 mL ethyl acetate were added to a 50 mL round bottom flask equipped with a magnetic stirrer. A catalytic amount of RuCl3.3H2O (a few mg) was added, followed by NaIO4 (3.17 g; 14.82 mmol) in 10 mL water. The mixture was stirred vigorously for one hour. The phases were separated, and the aqueous phase was extracted with three portions (10 mL each) ethyl acetate. The combined organic phases were washed with 10 mL aqueous sodium thiosulfate, 10 mL half-saturated brine, and 10 mL brine, and then dried over MgSO4. The solvent was removed on a rotary evaporator with a 40° C. water bath to yield 0.65 g (3.98 mmol) of (R)-1,1-dioxo-3a,4,5,6-tetrahydropyrrolo[1,2-c][1,2,3]oxathiazolidine as a colorless oil which crystallized spontaneously.

reactant | (R)-1-oxo-3a,4,5,6-tetrahydropyrrolo[1,2-c][1,2,3]oxathiazolidine | O=[S@@]1OCC2N1CCC2 | C5H9NO2S
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | (R)-1,1-dioxo-3a,4,5,6-tetrahydropyrrolo[1,2-c][1,2,3]oxathiazolidine | 3.98 mmol, 0.65 g | O=S1(OC[C@@H]2N1CCC2)=O | C5H9NO3S
